US09145413B2
a. 3-(5-Amino-3-tert-butyl-pyrazol-1-yl)-benzoic acid ethyl ester (Intermediate 29a)
A solution of 3-hydrazino benzoic acid (5.53 g, 36.4 mmol) and 4,4-dimethyl-3-oxo pentanenitrile (5.00 g, 40.0 mmol) and concentrated sulfuric acid (2 mL) in EtOH (72 mL) was stirred at reflux for 19 h. The cooled mixture was concentrated in vacuo, was diluted with 1N NaOH solution (15 mL) and extracted with EtOAc. The combined organics were dried and concentrated in vacuo. The residue was purified by FCC, using 0-40% EtOAc in cyclohexane, to give the title compound as an off-white powder (5.92 g, 56%). LCMS (Method 3): Rt 3.04 min, m/z 288 [MH+].

reactant | 3-hydrazino benzoic acid | 36.4 mmol, 5.53 g | N(N)C=1C=C(C(=O)O)C=CC1 | C7H8N2O2
reactant | 4,4-dimethyl-3-oxo pentanenitrile | 40.0 mmol, 5.00 g | CC(C(CC#N)=O)(C)C | C7H11NO
reactant | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
reactant | EtOH | 72 mL | CCO | C2H6O
product | 3-(5-Amino-3-tert-butyl-pyrazol-1-yl)-benzoic acid ethyl ester | 5.92 g, 56% | C(C)OC(C1=CC(=CC=C1)N1N=C(C=C1N)C(C)(C)C)=O | C16H21N3O2
